US09278951B2
Synthesis of 1-ethyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (1.23 g, 9 mmol) was dissolved into 27 mL of acetonitrile. Potassium hydroxide (0.61 g, 9.9 mmol) was added and the mixture was allowed to stir for 0.5 h. Bromoethane (0.66 mL, 9 mmol) was added and the solution was allowed to reflux overnight. The solution was filtered hot to remove a white precipitate (presumed to be KBr) and 2-bromomethylnaphthalene (1.98 g, 9 mmol) was added and the mixture was returned to reflux overnight. The mixture was then allowed to cool to room temperature, resulting in a white precipitate (0.3538, 10% yield). 1H NMR (500 MHz, DMSO-d6) 9.62 (1H, s, NCHN), 7.61 (4H, m, Ar), 7.58 (3H, m, Ar),), 5.66 (2H, s, NCH2), 4.27 (2H, q, NCH2), 1.47 (3H, t, CH3). MS: m/z=304.8 (theor for C16H15Cl2N2Br1=386.12).

reactant | 4,5-Dichloroimidazole | 9 mmol, 1.23 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 9.9 mmol, 0.61 g | [OH-].[K+]
reactant | Bromoethane | 9 mmol, 0.66 mL | BrCC | C2H5Br
reactant | KBr | [K+].[Br-]
reactant | 2-bromomethylnaphthalene | 9 mmol, 1.98 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetonitrile | 27 mL | C(C)#N | C2H3N
product | 1-ethyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide | 10% yield | [Br-].C(C)C1=C(C(=CC2=CC=CC=C12)C)[N+]1=CNC(=C1Cl)Cl | InChI=1S/C16H14Cl2N2.BrH/c1-3-12-13-7-5-4-6-11(13)8-10(2)14(12)20-9-19-15(17)16(20)18;/h4-9H,3H2,1-2H3;1H
